US05864039
4-Amino-N-(1-(4-aminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.0 g) was dissolved in dimethylformamide (10 ml) and n-propyl isocyanate (0.26 ml) was dropwise added under ice-cooling. The mixture was stirred at room temperature for 1 hr, and the reaction mixture was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.2 g of 4 -amino-5-chloro-2-methoxy-N-(1-(4-(3-n-propylureido)butyl)-piperidin-4-ylmethyl)benzamide.

reactant | 4-Amino-N-(1-(4-aminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCN)C=C1Cl)OC | C18H29ClN4O2
reactant | n-propyl isocyanate | 0.26 ml | C(CC)N=C=O | C4H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4 -amino-5-chloro-2-methoxy-N-(1-(4-(3-n-propylureido)butyl)-piperidin-4-ylmethyl)benzamide | 0.2 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCNC(=O)NCCC)C=C1Cl)OC | C22H36ClN5O3
